US05062881
Preparation of 2-(1-cyano-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid
Tetrabutylammonium 2-(1-cyano-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate (0.36 g, 0.00068 mol) is placed into a mixture of cyclohexane and ethyl acetate for 3 months. The mixture is filtered to yield the title compound as a tan solid (0.09 g, 42%), mp 150°-153° C., identified by IR and NMR spectral analyses.

reactant | Tetrabutylammonium 2-(1-cyano-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate | 0.00068 mol, 0.36 g | C(#N)N1C(=NC(C1=O)(C)C(C)C)C1=C(C(=O)[O-])C=CC=N1.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | cyclohexane | C1CCCCC1 | C6H12
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(1-cyano-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid | 0.09 g, 42% | C(#N)N1C(=NC(C1=O)(C)C(C)C)C1=C(C(=O)O)C=CC=N1 | C14H14N4O3
